US06727264B1
N-[3-(1-{3-[2-(4-BROMOPHENYL)-1-PHENYL-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure E and Scheme M using N-(3-{1-[5-(4-bromophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 1,1-diphenylhydrazine hydrochloride: ESMS m/e: 634.0 (M+H)+.

reactant | N-(3-{1-[5-(4-bromophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)-2-methylpropanamide | BrC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C26H33BrN2O2
reactant | 1,1-diphenylhydrazine hydrochloride | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
product | N-[3-(1-{3-[2-(4-BROMOPHENYL)-1-PHENYL-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | BrC1=CC=C(C=C1)C=1N(C2=CC=CC=C2C1CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C38H40BrN3O
